US08491869B2
A solution of 4-(benzo[4,5]imidazo[1,2-a]pyrimidin-4-yl)aniline (350 mg, 1.3 mmol) in di-tert-butyl dicarbonate (4 mL) was heated in a sealed tube at 120° C. for 15 minutes. The reaction mixture was diluted with DCM and purified directly by flash chromatography (silica gel, 100% EtOAc) to give tert-butyl (4-(benzo[4,5]imidazo[1,2-a]pyrimidin-4-yl)phenyl)carbamate (249 mg, 53%) as an orange solid. 1H NMR (400 MHz, CDCl3): δ 1.59 (s, 9H), 6.89 (m, 2H), 6.97 (m, 1H), 7.16 (m, 1H), 7.54-7.58 (m, 3H), 8.11 (m, 1H), 8.88 (d, J=4.4 Hz, 1H). MS (ESI): 361 (M+H+).

reactant | 4-(benzo[4,5]imidazo[1,2-a]pyrimidin-4-yl)aniline | 1.3 mmol, 350 mg | N=1C=2N(C(=CC1)C1=CC=C(N)C=C1)C1=C(N2)C=CC=C1 | C16H12N4
reactant | di-tert-butyl dicarbonate | 4 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl (4-(benzo[4,5]imidazo[1,2-a]pyrimidin-4-yl)phenyl)carbamate | 249 mg, 53% | N=1C=2N(C(=CC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)C1=C(N2)C=CC=C1 | C21H20N4O2
